US08106232B2
b. 7,7-Diethyl-5-hydroxy-1a,2,7,7a-tetrahydro-1-aza-cyclopropa[b]naphthalene-1-carboxylic acid tert-butyl ester
To a slurry of 7-amino-6-bromo-8,8-diethyl-5,6,7,8-tetrahydronaphthalen-2-ol hydrobromide (20.0 g, 52.8 mmol) and ethyl acetate (200 mL) was added 1.0 M sodium hydroxide in water (106 mL). The reaction mixture was stirred at 25° C. for 2 h, di-tert-butyldicarbonate (15 g, 68 mmol) in ethyl acetate (5 mL) was added and the reaction mixture was stirred at room temperature for 2 h. Following removal of two-thirds of the ethyl acetate (135 mL), heptane (135 mL) was added and the resulting slurry was stirred at room temperature over 30 min and then at 5° C. overnight. The slurry was filtered, and the filter cake was rinsed with water (100 mL), rinsed with heptane (50 mL), and dried under vacuum to give the title compound (14.3 g).

reactant | 7-amino-6-bromo-8,8-diethyl-5,6,7,8-tetrahydronaphthalen-2-ol hydrobromide | 52.8 mmol, 20.0 g | Br.NC1C(CC=2C=CC(=CC2C1(CC)CC)O)Br
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 68 mmol, 15 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 106 mL | O | H2O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 7,7-Diethyl-5-hydroxy-1a,2,7,7a-tetrahydro-1-aza-cyclopropa[b]naphthalene-1-carboxylic acid tert-butyl ester | 14.3 g | C(C)(C)(C)OC(=O)N1C2C(C3=CC(=CC=C3CC21)O)(CC)CC | C19H27NO3
